US06696473B2
A suspension of 4′-mercapto-3′-nitroacetanilide (3.0 g, 14 mmol) and 10% Pd/C (0.6 g) in MeOH (200 mL) was hydrogenated at 60 psi overnight. The catalyst was removed by filtration, and the filtrate was concentrated to give 3′-amino-4′-mercaptoacetanilide (2.5 g, 13 mmol), which was used in the next reaction immediately.

reactant | 4′-mercapto-3′-nitroacetanilide | 14 mmol, 3.0 g | SC1=C(C=C(NC(C)=O)C=C1)[N+](=O)[O-] | C8H8N2O3S
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 3′-amino-4′-mercaptoacetanilide | 13 mmol, 2.5 g | NC=1C=C(NC(C)=O)C=CC1S | C8H10N2OS
